US06541506B1
Step 5: Synthesis of dodec-9-en-11-ynoic acid methyl ester
n-Butyl lithium (750 μL, 2M) was added methyl sulfoxide (6 mL) under argon at room temperature. The solution was stirred for half an hour, and (3-trimethylsillyl-2-propynyl)-triphenylphosphonium bromide (1 mmole) in methyl sulfoxide was added and stirred for one hour. 9-Oxo-nonanoic acid methyl ester in methyl sulfoxide was added to the reaction mixture and stirred for 4.5 hours. The reaction mixture was poured onto ice water and extracted with ethyl acetate three times. The organic layers were combined and dried to obtain crude mixture, which was further purified through Si gel column chromatography. The product contained trans and cis isomers in about 8:2 ratio.

reactant | n-Butyl lithium | 2M, 750 μL | C(CCC)[Li]
reactant | 9-Oxo-nonanoic acid methyl ester | COC(CCCCCCCC=O)=O | C10H18O3
solvent | methyl sulfoxide | CS(=O)C | C2H6OS
solvent | methyl sulfoxide | 6 mL | CS(=O)C | C2H6OS
product | dodec-9-en-11-ynoic acid methyl ester | COC(CCCCCCCC=CC#C)=O | C13H20O2
